US07115607B2
tert-Butyl 4-(2-nitrophenyl)piperazinecarboxylate
To a 1 L round-bottomed flask equipped with magnetic stirring was added 1-(2-nitrophenyl)-piperazine (Emkachem) (7.2 g, 35 mmol), di-tert-butyl dicarbonate (11 g, 52 mmol) (Aldrich), and DMAP (cat.) (Aldrich) in THF (500 mL), and the reaction was stirred 18 h and then concentrated in vacuo. The resulting crude material was dissolved in 500 mL EtOAc and washed with 400 mL each of 10% citric acid (2×), 10% NaHCO3, H2O and brine. The organic layer was separated, dried over Na2SO4, filtered, and concentrated in vacuo to afford the desired material (6.4 g). MS (ESI, pos. ion) m/z: 308 (M+H), (ESI, neg. ion) m/z: 306 (M−H). Calc'd for C15H21N3O4: 307.15.

reactant | 1-(2-nitrophenyl)-piperazine | 35 mmol, 7.2 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
reactant | di-tert-butyl dicarbonate | 52 mmol, 11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2-nitrophenyl)piperazinecarboxylate | 6.4 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O4
